Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Driving erratically, swerving lanes.
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
HPI:
___ is a ___ year-old right-handed woman who
presents after being pulled over for driving erratically, found
to have a hypodensity on her head CT.

Over the weekend, she developed sinus pressure and a
watery/shimmery area in her vision in her "left eye" which she
thought was a side effect from a sinus infection.  This was
present last weekend and she also noticed yesterday, though is
not currently present.  Yesterday she also had some dizziness in
association with her sinus pain. 

This morning, she saw her husband at around 8:30 and at that 
time
he thought she appeared to be in her normal state of health 
apart
from complaining of low back pain.  She then drove to work and
when she was about 8 miles away from home, she was pulled over 
by
the police for erratic driving.  She was told that she was
swerving into the other ___.  They thought she might be drunk
and did a check on her, noticing something might be wrong.  They
called her husband who came to the scene immediately.  He 
noticed
that she was not acting quite herself-for example, she seemed
more nonchalant about being pulled over by the police than she
typically would be.  He also thought her speech might be a 
little
slurred.  She presented to the ___ where a noncontrast
head CT showed frank hypodensities in the right PCA territory. 
She was transferred to ___ for further management, where a 
code
stroke was called.  Vessel imaging was done with a CTA, which
showed occlusion of her right PCA in the P1 segment.  The 
patient
does not notice any of her current neurologic deficits and
subjectively feels at her baseline. 
 
Review of Systems: Positive per HPI and for recent PNA and 
recent
GI illness. The pt denies loss of vision, blurred vision,
diplopia, dysphagia. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait. The pt denies recent fever or
chills.  No recent weight loss. Denies cough, shortness of
breath.  Denies chest pain or palpitations.  Denies nausea,
vomiting, diarrhea, constipation or abdominal pain.  No recent
change in bowel or bladder habits.  No dysuria. Denies rash.
 
Past Medical History:
HTN
HLD                                               
anxiety
 
 
Social History:
___
Family History:
- father: stroke at age ___

 
Physical Exam:
Discharge Physical Exam:

Vitals ___:
Temp: 97.8-98.2
HR: 45-61
BP: ___
RR: ___
O2 Sat: 94-99%

Mental status: Alert and interactive, cooperative, no confusion. 
Normal naming of high frequency and low frequency objects. 

CN: Slightly decreased vision on left visual field, but not 
quantifiable by moving fingers-testing. No neglect with looking 
at pictures on stroke card.

Sensory: No extinction to DSS.

Motor: Slight weakness 4+ in left ham + quad. Full ___ strength 
in right lower extremities. Full strength in right upper and 
lower extremities.

Coordination: Left FNF slightly off, over-shoots nose and hits 
nasal bridge. Left finger-crease touch slightly off of crease. 
Good coordination with right hand. No dysdiadokinesia. 

Admission exam:
 
-Mental Status: 
Awake and alert.  Able to relate history without difficulty. 
Language is fluent with intact repetition and normal prosody. 
Pt. was able to name both high and low frequency objects on the
stroke card. Described the cookie jar picture accurately.  She
made some mistakes reading the first word phrases; for example
she said "'clear' the table in the dining room" and "'I' heard
him speak on the radial last night".  Speech was not noticeably
dysarthric.  Able to follow both midline and appendicular
commands.  She has no extinction to DSS but appears inattentive
to her left hemibody.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  Suspect a partial left lower
quadrant visual field cut (versus neglect) since she
intermittently makes mistakes seeing items in this area.  
III, IV, VI: EOMI without nystagmus.  
V: Facial sensation intact to light touch 
VII: Left nasolabial fold flattening with symmetric activation
bilaterally  
VIII: Hearing intact to voice.
IX, X: Palate elevates symmetrically.
XI: Shoulder shrug is symmetric.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: A pronator drift is present in the left arm. No tremor
noted. 
 Delt Bic Tri WrE FFl FE  IO  IP Quad Ham TA ___
L  4+   ___   5  4+  4+  ___  4+    5     5   5
R  5    ___   ___   ___   5    5     5   5
 
-DTRs:
    ___  Tri  ___  Pat  Ach
L   1    1     1     1    2
R   1    1     1     1    2
- Toes were downgoing bilaterally.

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense throughout. No extinction to DSS (tactile or
visual) though does appear to have some motor neglect on the
left.

-Coordination: No dysmetria on FNF bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride. Romberg
absent.
 

 
Pertinent Results:
___ 06:30PM BLOOD TotProt-6.1* Albumin-3.9 Globuln-2.2 
Calcium-9.5 Phos-3.1 Mg-1.9 Cholest-167
___ 06:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:30PM BLOOD TSH-1.6
___ 06:30PM BLOOD Triglyc-120 HDL-65 CHOL/HD-2.6 LDLcalc-78 
LDLmeas-89
___ 06:30PM BLOOD %HbA1c-5.5 eAG-111
___ 06:30PM BLOOD cTropnT-<0.01
___ 06:30PM BLOOD WBC-8.1 RBC-4.11 Hgb-12.8 Hct-38.6 MCV-94 
MCH-31.1 MCHC-33.2 RDW-13.4 RDWSD-46.3 Plt ___
___ 01:31PM BLOOD Neuts-61.5 ___ Monos-7.7 Eos-2.3 
Baso-0.6 Im ___ AbsNeut-5.14 AbsLymp-2.29 AbsMono-0.64 
AbsEos-0.19 AbsBaso-0.05
___ 06:30PM BLOOD ___ PTT-26.6 ___
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with HTN, HLD, and anxiety.

CTA showed right P1 occlusion most likely due to a clot that 
lead to an infarction of the right medial temporo-occipital lobe 
and also the anterior thalamus (polar artery - a vessel that 
comes off the PCOM). 

Her LDL was 78, so her simavastatin was changed to atorvastatin 
40mg. She was started on aspirin 81mg, as she was not on this 
previously.

Echocardiogram showed: The left atrium is elongated. The right 
atrium is moderately dilated. No atrial septal defect or patent 
foramen ovale is seen by 2D, color Doppler or saline contrast 
with maneuvers. The estimated right atrial pressure is ___ mmHg. 
Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. Left ventricular systolic 
function is hyperdynamic (EF = 75%). Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. There is no pericardial effusion. 

She was discharged with ___ of Hearts event monitor to watch 
for Afib, and she should follow-up with neurology, ophtho for 
visual-fields testing, and her primary care physician.
We recommend that she not drive until further follow-up with 
neurology after visual field formal testing as an outpatient.

============================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed  () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 78) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) (x) Yes - () No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
() Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? (x) Yes [Type: () 
Antiplatelet - () Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Simvastatin 40 mg PO QPM 
3. Atenolol 25 mg PO DAILY 
4. ALPRAZolam 0.5 mg PO TID:PRN anxiety 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*12 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*12 
3.  ALPRAZolam 0.5 mg PO TID:PRN anxiety  
4.  Atenolol 25 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
You were hospitalized due to symptoms of decreased spatial 
awareness and visual processing resulting from an ACUTE ISCHEMIC 
STROKE, a condition where a blood vessel providing oxygen and 
nutrients to the brain is blocked by a clot. The brain is the 
part of your body that controls and directs all the other parts 
of your body, so damage to the brain from being deprived of its 
blood supply can result in a variety of symptoms.
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
- High cholesterol.
- High blood pressure. 

We are changing your medications as follows:
- Changing simvastatin to atorvastatin for better cholesterol 
control.
- Adding aspirin.

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___